US04520193
A solution of the syn isomer of 3-acetonyl-2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (4.5 g) in formic acid (42 cc) is heated to 50° C. Distilled water (15 cc) is added in the course of 15 minutes and the mixture is stirred for 15 minutes at 50° C. It is filtered and the filtrate is concentrated to dryness under reduced pressure (1 mm Hg; 0.13 kPa) at 20° C. The residue is taken up 3 times in succession with ethanol (50 cc), which is evaporated off to dryness each time under reduced pressure (1 mm Hg; 0.13 kPa) at 20° C. The solid residue is recrystallised from propan-2-ol (60 cc) and the crystals are filtered off, washed with diethyl ether (20 cc) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 30° C. This yields the syn isomer of 3-acetonyl-7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-carboxy-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.2 g) in the form of beige crystals.

reactant | 3-acetonyl-2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 4.5 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C48H41N5O6S2
reactant | water | 15 cc | O | H2O
solvent | formic acid | 42 cc | C(=O)O | CH2O2
product | 3-acetonyl-7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-carboxy-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.2 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(C(=NOC)C=1N=C(SC1)N)=O)=O)C(=O)O | C16H17N5O6S2
